US06162824
(dd) O-[9-(4-Fluorophenyl)-9H-xanthen-9-yl]-L-serine:
from 9-(4-fluorophenyl)-9H-xanthen-9-ol (Example 1 m) and Nα -(9-fluorenylmethoxycarbonyl)-L-serine methyl ester;

reactant | 9-(4-fluorophenyl)-9H-xanthen-9-ol | FC1=CC=C(C=C1)C1(C2=CC=CC=C2OC=2C=CC=CC12)O | C19H13FO2
reactant | Nα -(9-fluorenylmethoxycarbonyl)-L-serine methyl ester | COC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CO)=O | C19H19NO5
product | O-[9-(4-Fluorophenyl)-9H-xanthen-9-yl]-L-serine | FC1=CC=C(C=C1)C1(C2=CC=CC=C2OC=2C=CC=CC12)OC[C@H](N)C(=O)O | C22H18FNO4
